US08372864B2
1.1.1: N-(2-Bromobenzyl)heptan-4-amine
Added to a solution of 7.4 g of 2-bromobenzaldehyde in 80 cm3 of dichloromethane are 6.25 g of sodium sulfate and 5.07 g of 4-aminoheptane at a temperature close to 20° C. After stirring for 2 h, the reaction mixture is filtered through a cartridge and washed with 2 lots of 10 cm3 of dichloromethane. The filtrate is concentrated using a rotary evaporator under reduced pressure (5 kPa). The oil obtained is dissolved in 80 cm3 of methanol. 0.757 g of sodium borohydride is added in 3 lots. The reaction mixture is stirred for 1 h at 20° C., then 0.757 g of sodium borohydride is again added. This operation is carried out twice. After stirring at 20° C. for 20 h, the reaction mixture is concentrated using a rotary evaporator under reduced pressure (5 kPa). The concentration residue is taken up in 100 cm3 of dichloromethane and 50 cm3 of water. The organic phase is washed with 2 lots of 50 cm3 of a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated using a rotary evaporator under reduced pressure (5 kPa). The 10.8 g of colorless oil obtained are purified by filtration through a pellet of 150 g of silica with 1 dm3 of an 80% heptane/20% ethyl acetate mixture. After concentrating the fractions under reduced pressure, 9.75 g of N-(2-bromobenzyl)heptan-4-amine are obtained in the form of a colorless clear oil.

reactant | 2-bromobenzaldehyde | 7.4 g | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | sodium sulfate | 6.25 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-aminoheptane | 5.07 g | NC(CCC)CCC | C7H17N
reactant | sodium borohydride | 0.757 g | [BH4-].[Na+]
reactant | sodium borohydride | 0.757 g | [BH4-].[Na+]
solvent | dichloromethane | 80 cm3 | ClCCl | CH2Cl2
solvent | methanol | 80 cm3 | CO | CH4O
product | N-(2-Bromobenzyl)heptan-4-amine | 10.8 g | BrC1=C(CNC(CCC)CCC)C=CC=C1 | C14H22BrN
